US04692447
A solution of dl-8-amino-4,4a,5,6-tetrahydro-2H-benzo(h)-cinnolin-3-one (3 g) and n-butyl-bromide (5.7 g) in acetone (75 ml) is heated at reflux temperature in the presence of fine powdered potassium carbonate (5 g). The mixture is filtered, the acetone is evaporated and the residue is partitioned between water and ethyl acetate. The usual work-up affords a crude compound (3.9 g) which is crystallized from methanol to yield dl-1-n-butyl-8-amino-4,4a,5,6-tetrahydro-2H-benzo(h)-cinnolin-3-one m.p. 141°-142° C.

reactant | 8-amino-4,4a,5,6-tetrahydro-2H-benzo(h)-cinnolin-3-one | 3 g | NC=1C=CC2=C(CCC3CC(NN=C23)=O)C1 | C12H13N3O
reactant | n-butyl-bromide | 5.7 g | C(CCC)Br | C4H9Br
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 75 ml | CC(=O)C | C3H6O
product | 1-n-butyl-8-amino-4,4a,5,6-tetrahydro-2H-benzo(h)-cinnolin-3-one | C(CCC)N1NC(CC2CCC3=C(C12)C=CC(=C3)N)=O | C16H23N3O
